US07674789B2
3-[8-(2,6-difluorophenyl)-2-({3-[(1,1-dimethylethyl)amino]propyl}amino)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-(1-methylethyl)benzamide
To a solution of compound 3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-(1-methylethyl)benzamide (20 mg, 0.04 mmol) in THF (3 mL) were added N-(1,1dimethylethyl)-1,3-propanediamine (0.028 mL, 0.177 mmol). The resultant solution was stirred at room temperature over night. The result mixture was concentrated. CombiFlash chromatography (mobile phase DCM/DCM[90]+MeOH[7]+NH4OH[3]) provided the title compound as a white solid (17 mg, 75%). LC-MS m/z 566 (M+H)+; 1H-NMR (MeOD) δ 1.11 (s, 9H), 1.27 (d, 6H), 1.60 (m, 2H), 2.31 (s, 3H), 2.45 (m, 2H), 3.15 (m, 2H), 4.11 (s, 2H), 4.23 (m, 1H), 7.15 (t, 2H), 7.46 (d, 1H), 7.52 (m, 1H), 7.69 (s, 1H), 7.85 (d, 1H).

reactant | 3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-(1-methylethyl)benzamide | 0.04 mmol, 20 mg | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)NC(C)C)C=CC2C)S(=O)C)=O | C24H23F2N5O3S
reactant | N-(1,1dimethylethyl)-1,3-propanediamine | 0.177 mmol, 0.028 mL | CC(C)(C)NCCCN | C7H18N2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 3-[8-(2,6-difluorophenyl)-2-({3-[(1,1-dimethylethyl)amino]propyl}amino)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-(1-methylethyl)benzamide | 17 mg, 75% | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)NC(C)C)C=CC2C)NCCCNC(C)(C)C)=O | C30H37F2N7O2
